US07648987B2
b) 8-Chloro-3-methylsulfanyl-imidazo[1,5-a]pyrazine
To a solution of (3-chloro-pyrazin-2-ylmethyl)-thiocarbamic acid S-methyl ester (3.05 g, 0.0140 mol) in MeCN (70 mL) were added DMF (4.3 mL, 0.056 mol) and POCl3 (5.2 mL, 0.056 mol) at 0° C. under nitrogen. The reaction mixture was slowly warmed to rt and stirred overnight. The solvent was evaporated under reduced pressure and the residue was cooled at 0° C. and diluted with EtOAc (250 mL), then quenched with sat. aq. NaHCO3 (100 mL). The mixture was washed with brine (50 mL), and dried over anhydrous sodium sulfate. The crude material was purified by silica gel chromatography (Hex:EtOAc=80:20→70:30) to give the title compound as a light-yellow solid; LC-MS (ES, Pos.): 200/202 (3/1) [MH+]; 1H NMR (CDCl3, 400 MHz) δ 2.71 (s, 3H), 7.40 (d, J=5.1 Hz, 1H), 7.74 (dd, J=5.1, 1.0 Hz, 1H), 7.90 (s, 1H).

reactant | (3-chloro-pyrazin-2-ylmethyl)-thiocarbamic acid S-methyl ester | 0.0140 mol, 3.05 g | CSC(NCC1=NC=CN=C1Cl)=O | C7H8ClN3OS
reactant | DMF | 0.056 mol, 4.3 mL | CN(C)C=O | C3H7NO
reactant | POCl3 | 0.056 mol, 5.2 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | MeCN | 70 mL | CC#N | C2H3N
product | 8-Chloro-3-methylsulfanyl-imidazo[1,5-a]pyrazine | ClC=1C=2N(C=CN1)C(=NC2)SC | C7H6ClN3S
